US05599812
Stage B: 6-methoxy-3-nitro-2-(1-pyrrolyl)pyridine
10.45 g (0.0791 mol; 1.2 eq) of 2,5-dimethoxy-tetrahydrofuran and 12.00 g (0.0791 mol; 1.2 eq) of 4chloropyridine hydrochloride are stirred for 10 minutes in 300 cm3 of dioxane. 11.15 g (0.0659 mol) of 2-amino-6methoxy-3-nitropyridine are added and the solution is brought to reflux for 4 h. The dioxane is evaporated under reduced pressure.

reactant | 2,5-dimethoxy-tetrahydrofuran | 0.0791 mol, 10.45 g, 1.2 eq | COC1OC(CC1)OC | C6H12O3
reactant | 4chloropyridine hydrochloride | 0.0791 mol, 12.00 g, 1.2 eq | Cl.ClC1=CC=NC=C1
reactant | 2-amino-6methoxy-3-nitropyridine | 0.0659 mol, 11.15 g | NC1=NC(=CC=C1[N+](=O)[O-])OC | C6H7N3O3
solvent | dioxane | 300 cm3 | O1CCOCC1 | C4H8O2
product | 6-methoxy-3-nitro-2-(1-pyrrolyl)pyridine | COC1=CC=C(C(=N1)N1C=CC=C1)[N+](=O)[O-] | C10H9N3O3
